US05623072
Ethyl propiolate (130 mL, 1.28 mole) was stirred under N2 in methylene chloride (2.5 L) at RT while morpholine (112 mL, 1.28 mole) was added dropwise over 20 min. External cooling by means of an ice bath was employed. The mixture was then refluxed for 30 min. and then cooled to RT. Diisopropylethylamine (426.4 mL, 2.45 mole) was then added to the mixture followed by [2,2-dichloro-1-[3-(trifluoromethyl)phenyl]ethylidene]hydrazinecarboxylic acid ethyl ester (400 g, 1.17 mole) which was added dropwise as a solution in methylene chloride (800 mL) over 30 min. The mixture was then refluxed for 18 h, cooled, and partitioned 2 times with water. The organic layer was dried (MgSO4), filtered and evaporated in vacuo to give a crude oil. The crude oil was taken up in 3 L of ethanol and then KOH 302 g of 86.6%, 4.66 moles) was added while the solution was stirred. The mixture was then refluxed under N2 for 2 h. Water (500 mL) was then added and most of the ethanol was removed in vacuo. The mixture was then dissolved in 3 L of water and extracted 3×800 mL with methylene chloride which was discarded. The aqueous layer was then made acidic with 12N HCl to precipitate the pyridazine acid (gas is evolved). The acid is then dried in vacuo to give 6-[3-(trifluoromethyl)phenyl]-4pyridazinecarboxylic acid (247 g, 79% yield, Compound No. 2) as a brown solid which was recrystallized from ethyl acetate/methanol.

reactant | Ethyl propiolate | 1.28 mole, 130 mL | C(C#C)(=O)OCC | C5H6O2
reactant | morpholine | 1.28 mole, 112 mL | N1CCOCC1 | C4H9NO
reactant | Diisopropylethylamine | 2.45 mole, 426.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | [2,2-dichloro-1-[3-(trifluoromethyl)phenyl]ethylidene]hydrazinecarboxylic acid ethyl ester | 1.17 mole, 400 g | C(C)OC(=O)NN=C(C(Cl)Cl)C1=CC(=CC=C1)C(F)(F)F | C12H11Cl2F3N2O2
reactant | KOH | 302 g | [OH-].[K+]
solvent | methylene chloride | 2.5 L | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 800 mL | C(Cl)Cl | CH2Cl2
solvent | ethanol | 3 L | C(C)O | C2H6O
solvent | Water | 500 mL | O | H2O
product | 6-[3-(trifluoromethyl)phenyl]-4pyridazinecarboxylic acid | 247 g, 79% yield | FC(C=1C=C(C=CC1)C1=CC(=CN=N1)C(=O)O)(F)F | C12H7F3N2O2
